Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain and bleeding per rectum of three days duration
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy ___

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of SLE diagnosed in ___ few years ago, patient 
moved
to ___ last ___ to do ___ at ___. Patient says 3 days
ago he started having moderate to severe mostly lower abdominal
pain, sharp and continuous that prevented him from sleep,
aggravated by eating and no specific reliefs. Associated with
diarrhea and bright red blood per rectum in small amounts that 
is
not mixed with stool. Denies fever, chills, nausea or vomiting.
Lives by himself and cooks, doesn't suspect any food poising. He
went to ___ urgent care 2 days ago and was given omeprazole
which he thinks it helped with the pain a little. 

In the ED patient had abdominal/pelvic CT which showed  Acute
proctocolitis

 
Past Medical History:
Systemic lupus erythematosus

 
Social History:
___
Family History:
has 2 older brother and both parents are all
healthy as far as he knows.
 
Physical Exam:
ADMISSION EXAM
VITALS: ___ 0326 Temp: 98.9 PO BP: 126/75 L Lying HR: 86 
RR:
18 O2 sat: 98% O2 delivery: RA 
GENERAL: Alert and in mild distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation diffusely. 
Old RLQ surgical scar.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM 
GENERAL: Alert and in no apparent distress
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: RRR no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation in
lower abdomen.  Bowel sounds present
SKIN: No rashes or ulcerations noted
EXTR: wwp no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
WBC 10.5--->6.6
hgb ___
Plts 200s

INR 1.2

BMP wnl

ALT 60-70
AST ___
Alk Phos 130-150
Tbili 0.4-0.5

Hep C Ab neg
Hep B sAg, sAb, cAb neg
Hep A IgM neg

___ 1:640
antimitochondrial antibody and anti-smooth muscle antibody 
negative
CRP 18.5->45.1->19.7->12.5
ESR 63->68
IgG 1359 IgA 292 (wnl)
IgM 33 (40-230)
C3 115 C4 23 (wnl)

Micro:
O&P negative
EHEC negative
Stool cultures neg
Blood culture no growth to date
C diff negative
Shiga toxin PCR pending
Norovirus negative

CT A/P
EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST 
INDICATION:  ___ with ?SLE p/w 2d suprapubic abd pain + bloody 
diarrhea 
TECHNIQUE:  Single phase contrast: MDCT axial images were 
acquired through the abdomen and pelvis following intravenous 
contrast administration. Oral 
contrast was not administered.Coronal and sagittal reformations 
were performed and reviewed on PACS. 
DOSE:  Total DLP (Body) = 600 mGy-cm. 
COMPARISON:  None. 
FINDINGS:  
LOWER CHEST: There is a slightly dense right pleural fluid 
collection which could represent blood products.  Please 
correlate clinically. Otherwise, the  imaged lung bases are 
unremarkable and the imaged portion of the heart is normal. 
ABDOMEN: 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits. 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions.  There are multiple small accessory 
spleens. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality. 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout. There is rectal moderate thickening and 
perirectal fat stranding consistent there is mild thickening of 
the distal sigmoid colon and rectum with mild perirectal fat 
stranding.  Otherwise the colon is unremarkable.  The appendix 
is normal. 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
grossly 
unremarkable. 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted. 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
SOFT TISSUES: There are postsurgical changes along the right 
lower abdominal soft tissues, likely relating to a prior ostomy. 
 Otherwise, with the abdominal and pelvic wall is within normal 
limits. 
IMPRESSION:
1. Acute proctocolitis. 
2. Small complex appearing right pleural collection, possibly
hemothorax, please correlate clinically. 

CXR 
Left lung nodule, level of the fifth anterior interspace located
on the lateral view close to the major fissure projecting over
the heart.  The radiodensity of the lesion suggests but does not
diagnose benign calcification.  Any prior chest imaging be
obtained to see if the nature of the lesion can be established 
by
radiographic history. 
The nodule is above the level imaged on the earlier abdomen CT,
reported separately.  Of note chest radiographs do not show the
right pleural abnormality ascribed to possible hemothorax. 
Abnormally thickened pleura is another possibility and should be
investigated as a possible manifestation of trauma or 
malignancy.
Lungs are otherwise clear.  Cardiomediastinal and hilar
silhouettes and pleural surfaces are normal. 
RECOMMENDATION(S):  Any prior chest imaging should be obtained 
as
a first step in evaluating left lower lung nodule, but right
pleural thickening and possible associated hemorrhage shown on
the abdomen CT earlier in the day should be investigated.  This
could be a manifestation of malignancy. 

Flex sig ___
-normal mucosa in proximal sigmoid and distal descending colon
starting at 20 cm
- erythema, congestion, friability n rectum at 10 cmto  sigmoid
at 20 cm
- biopsied

Colon and rectum biopsies pending

 
Brief Hospital Course:
Teeravit ___ is a ___ year old man with SLE on 
hydroxychloroquine who presented to the ED with acute onset 
bloody diarrhea and abdominal pain. His presentation was 
initially felt to be consistent with acute bacterial colitis, 
given his acute symptoms and CT finding of proctocolitis. He was 
started on cipro/flagyll and had some mild improvement, although 
he continued to have frequent watery small volume stools and 
lower abdominal pain and cramping.

He ultimately underwent sigmoidoscopy because of slow 
improvement in symptoms. He was noted to have erythema, 
friability, and contact bleeding within a 10 cm rectosigmoid 
region, felt to be most suggestive of inflammatory bowel 
disease. Biopsies were taken and were pending at discharge. The 
patient was started on Rowasa enemas and will follow-up closely 
with GI in clinic. He was also discharged on PRN dicyclomine.

====================================
Recommendations after discharge:

(1) GI to follow-up with patient about biopsy results and 
further treatment and diagnostics moving forward 

(2) Given ALT and alk phos elevation, these should be rechecked 
in ___ months for resolution

(3) Given L lingular nodule and right pleural abnormality, it 
will be important to confirm with patient's outpatient doctors 
whether there is a suspected diagnosis and whether any further 
monitoring is recommended

(4) patient discharged on Rowasa enemas and also PRN dicyclomine

(5) consider hepatitis B vaccination

====================================

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Hydroxychloroquine Sulfate 400 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  DICYCLOMine 10 mg PO QID 
RX *dicyclomine 10 mg 1 capsule(s) by mouth up to four times 
daily as needed Disp #*90 Capsule Refills:*0 
3.  Mesalamine Enema 4 gm PR QHS 
RX *mesalamine [Rowasa] 4 gram/60 mL 1 enema(s) rectally once 
every night Refills:*3 
4.  Hydroxychloroquine Sulfate 400 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Suspected inflammatory bowel disease
Lupus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with bloody diarrhea and 
abdominal pain. These symptoms improved slightly during your 
admission to the hospital. Initially we had felt your symptoms 
were most likely due to infection, but based on our evaluation 
with a sigmiodoscopy procedure, it seems more likely that you 
may have an inflammatory bowel disease (IBD), such as "Crohn's 
disease" or "ulcerative colitis".

During the procedure biopsies were taken from your colon and 
rectum, which will give us more information. You will follow-up 
with the gastroenterology team in clinic to review these 
results. In the meantime, we recommend taking "Rowasa" (also 
called "mesalamine") enemas once every night, to help reduce the 
inflammation. We have also prescribed dicyclomine (also called 
"bentyl"), which can be used on an as-needed basis for abdominal 
discomfort and cramping. 

On the CT scan and chest xray that we obtained when you first 
arrived at the hospital, we noted a nodule in your left lung, 
and an abnormal area around your right lung. Based on the 
records you brought in, it sounds as though both of these 
findings have been evaluated by your doctors in ___. 
However, we are uncertain whether your doctors know exactly what 
these findings are or whether they plan to evaluate further with 
future scans. We recommend discussing this further with your 
doctors. If you wish to be evaluated by a doctor here, we can 
help you to arrange an appointment. 

We recommend that you undergo repeat testing of your liver 
function tests in ___ months, as these were slightly abnormal. 
We also recommend that you consider a hepatitis B vaccination in 
the future. 
 
Followup Instructions:
___